* Passive and discrete component models for OPA134 mic simulation
* ---------------------------------------------------------------------------

* 1N4148 small signal diode
* Parameters from ON Semiconductor / Vishay published SPICE data
.model 1N4148 D (Is=2.52n N=1.752 Rs=0.568 Ikf=0 Xti=3 Eg=1.11
+ Cj0=4p M=0.4 Vj=0.75 Fc=0.5 Isr=1.48n Nr=2 Bv=100 Ibv=100u Tt=11.54n)

* BZX55C56 — 56V zener diode
* Vz=56V at Iz=5mA, Zz~70Ω
.model BZX55C56 D (Is=1n N=1 Rs=10 Cj0=50p Bv=56 Ibv=5m Vj=0.6 M=0.4)

* NTE10/3 transformer model (used reversed: 3-turn section as primary)
* Primary inductance (red-blue, 3-turn section): 0.5H estimate
* Secondary inductance (white-yellow, 1-turn): 0.5 / 9 = 55.6mH  (Ls = Lp/n^2, n=3)
* Coupling k=0.99 (high quality audio transformer)
* Primary DC resistance: 521Ω measured (Red-Blue, S1-S2)
* Secondary DC resistance: ~10Ω estimate
.subckt NTE10_3 PRI_A PRI_B SEC_P SEC_N
Rp1  PRI_A    PRI_A2   521
Lp   PRI_A2   PRI_B    0.5
Ls   SEC_P2   SEC_N    55.6m
Rs1  SEC_P    SEC_P2   10
K1   Lp Ls    0.99
.ends NTE10_3

* L78L24 simplified model: ideal 24V regulator with dropout
* Input on IN, output on OUT, ground on GND
* Quiescent current: ~3mA (modeled as current source from IN to GND)
.subckt L78L24 IN OUT GND_PIN
Vreg  OUT  GND_PIN  24
Rout  IN   INT_IN   0.1
Iq    INT_IN GND_PIN 3m
.ends L78L24

* BZX55C68 — 68V zener diode (DZ1 HV clamp, replaces BZX55C56)
.model BZX55C68 D (Is=1n N=1 Rs=10 Cj0=50p Bv=68 Ibv=5m Vj=0.6 M=0.4)

* BAT54S — Schottky diode (each junction modeled individually)
* V_F ~0.2V at low-µA loads; used in active Dickson pump
* Parameters from op-txm-v3 / Vishay datasheet
.model BAT54S D (IS=1e-6 N=1.05 BV=100 RS=3)
